US05189040
A mixture of 0.5 g (2 mmol) of 1,3-dimethyl-4-(2-chlorophenylthio)-5-hydroxypyrazole and 0.97 g (10 mmol) of 2-fluoropyridine was refluxed with heating for 8 hours. After completing the reaction, the reaction mixture was purified by means of silica gel column chromatography (developing solution: ethyl acetate-hexane (3:2 v/v)) to give 0.17 g of 1,3-dimethyl-4-(2-chlorophenylthio)-5-(pyridine-2-yloxy)pyrazole.

reactant | 1,3-dimethyl-4-(2-chlorophenylthio)-5-hydroxypyrazole | 2 mmol, 0.5 g | CN1N=C(C(=C1O)SC1=C(C=CC=C1)Cl)C | C11H11ClN2OS
reactant | 2-fluoropyridine | 10 mmol, 0.97 g | FC1=NC=CC=C1 | C5H4FN
product | 1,3-dimethyl-4-(2-chlorophenylthio)-5-(pyridine-2-yloxy)pyrazole | 0.17 g | CN1N=C(C(=C1OC1=NC=CC=C1)SC1=C(C=CC=C1)Cl)C | C16H14ClN3OS
